US07256196B1
Preparation of [2-(2,6-difluorophenoxy)-5-nitro-pyrimidin-4-yl]-ethyl-amine (10):
2,6-Difluorophenol (2.1 g, 16.1 mmol) is added to a solution of (2-chloro-5-nitro-pyrimidin-4-yl)-ethyl-amine, 6, (3.0 g, 14.9 mmol) in N,N-diisopropyl ethylamine (50 mL). The reaction is heated to reflux (˜130° C.) under N2 for 3 hours at which point monitoring of the reaction via LC/MS indicates the starting material is consumed. The mixture is diluted with 1 N HCl (500 mL) and the resulting mixture extracted three times with EtOAc (500 mL). The organic layers are combined, dried over MgSO4 and concentrated in vacuo to an oil which is purified over silica (15% EtOAc/hexane) to afford 3.2 g (73% yield) of the desired product as a yellow oil. 1H NMR (300 MHz, CDCl3) δ 9.07 (s, 1H), 8.43 (br s, 1H), 7.13-7.23 (m, 1H), 6.98 (t, J=7.8 Hz, 2H), 3.44-3.53 (m, 2H), 1.22 (t, J=7.2 Hz, 3H); ESI/MS: 297 (M+H).

reactant | 2,6-Difluorophenol | 16.1 mmol, 2.1 g | FC1=C(C(=CC=C1)F)O | C6H4F2O
reactant | (2-chloro-5-nitro-pyrimidin-4-yl)-ethyl-amine | ClC1=NC=C(C(=N1)NCC)[N+](=O)[O-] | C6H7ClN4O2
solvent | N,N-diisopropyl ethylamine | 50 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | [2-(2,6-difluorophenoxy)-5-nitro-pyrimidin-4-yl]-ethyl-amine | 3.2 g, 73% yield | FC1=C(OC2=NC=C(C(=N2)NCC)[N+](=O)[O-])C(=CC=C1)F | C12H10F2N4O3
